US05254563
6-Benzyloxy-3-(1-hydroxy-1-phenylmethyl)-4-methoxymethyl-beta-carboline
300 mg of 6-benzyloxy-3-(1-hydroxy-1-phenylmethyl)4methoxymethyl-9-(4-methylphenylsulfonyl)-beta-carboline was added a sodium methylate solution of 50 mg of 80% sodium hydride and 30 ml of absolute ethanol and refluxed for 2 hours under argon. After distilling off the solvent, the residue was taken up in ethyl acetate and washed with saturated sodium chloride solution. After column chromatography on silica gel in the system of dichloromethane/ethanol 12:1, 211 mg of the title compound was obtained after recrystallization from ethyl acetate/petroleum ether from the ethyl acetate phase dried on magnesium sulfate and concentrated by evaporation, melting point 190°-191° C.

reactant | 6-benzyloxy-3-(1-hydroxy-1-phenylmethyl)4methoxymethyl-9-(4-methylphenylsulfonyl)-beta-carboline | 300 mg | C(C1=CC=CC=C1)OC=1C=C2C=3C(=C(N=CC3N(C2=CC1)S(=O)(=O)C1=CC=C(C=C1)C)C(C1=CC=CC=C1)O)COC | C34H30N2O5S
reactant | sodium methylate | C[O-].[Na+]
reactant | sodium hydride | 50 mg | [H-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 6-Benzyloxy-3-(1-hydroxy-1-phenylmethyl)-4-methoxymethyl-beta-carboline | 211 mg | C(C1=CC=CC=C1)OC=1C=C2C=3C(=C(N=CC3NC2=CC1)C(C1=CC=CC=C1)O)COC | C27H24N2O3
